US05051413
16 ml of glacial acetic acid, 5.90 g of sodium acetate (anhydrous) and 12.2ml of benzaldehyde are added to a solution of 5.69 g of E-2-amino-4-methyl-5-phosphono-3- pentenoic acid ethyl ester in 48 ml of water and 48 ml of ethanol. 15.70 g of sodium borohydride are added in approximately 70 portions within a period of one hour with intensive cooling with ice/sodium chloride, 4 ml of benzaldehyde being added after half the addition has taken place, after approximately 30 minutes. The temperature of the reaction mixture is kept at from 0° to 10°. When the addition is complete, the mixture is stirred at 0° for one hour to complete the reaction, and then 1N hydrochloric acid is added dropwise until an acidic reaction to Congo red takes place. The undissolved salts are filtered off and washed with water. The filtrateis concentrated to dryness by evaporation in vacuo, and the residue is concentrated by evaporation twice more after the addition of ethanol. The residue is then stirred with 150 ml of ethanol, and the undissolved material is filtered off with suction and washed with ethanol. 25 ml of propylene oxide are added to the filtrate, and the mixture is then stirredfor 2 hours. The material which crystallises out (mainly educt) is filteredoff. The mother liquor is concentrated to dryness by evaporation and stirred with 350 ml of ethyl acetate. The crystalline crude product obtained after filtration with suction is recrystallised from ethanol. In this manner there is obtained E-2-benzylamino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester, m.p. 192 ° (decomp.).

reactant | sodium acetate | 5.90 g | C(C)(=O)[O-].[Na+]
reactant | benzaldehyde | 12.2ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | E-2-amino-4-methyl-5-phosphono-3- pentenoic acid ethyl ester | 5.69 g | C(C)OC(C(\C=C(\CP(=O)(O)O)/C)N)=O | C8H16NO5P
reactant | sodium borohydride | 15.70 g | [BH4-].[Na+]
reactant | benzaldehyde | 4 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 48 ml | O | H2O
solvent | ethanol | 48 ml | C(C)O | C2H6O
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | E-2-benzylamino-4-methyl-5-phosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(O)O)/C)NCC1=CC=CC=C1)=O | C15H22NO5P
